US07932271B2
3-Chloro-N-[5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]propane-1-sulfonamide
To a tetrahydrofuran (5 ml) solution of 3-chloro-N-[5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]-N-(3-chloropropylsulfonyl)propane-1-sulfonamide (193 mg, 0.272 mmol) was added to a tetrahydrofuran solution (11.0M, 0.28 ml, 0.28 mmol) of tetrabutylammonium fluoride. The resulting mixture was stirred at room temperature for 1 hour. To the reaction mixture was added a saturated aqueous solution of ammonium chloride, followed by extraction with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate (=4:1) eluate was concentrated under reduced pressure to give the title compound (108 mg, 0.190 mmol, 70%) as a white solid.

reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | 3-chloro-N-[5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]-N-(3-chloropropylsulfonyl)propane-1-sulfonamide | 0.272 mmol, 193 mg | ClCCCS(=O)(=O)N(S(=O)(=O)CCCCl)C1=NC=C(C(=C1)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl)Cl | C24H22Cl4F2N2O6S3
reactant | tetrahydrofuran | 0.28 mmol, 11.0M, 0.28 ml | O1CCCC1 | C4H8O
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
product | 3-Chloro-N-[5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]propane-1-sulfonamide | 0.190 mmol, 108 mg, 70% | ClCCCS(=O)(=O)NC1=NC=C(C(=C1)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl)Cl | C21H17Cl3F2N2O4S2
